US04165377
To a solution of 2-guanidino-4-[5-(3-cyano-2-methylisothioureido)pentyl]thiazole in ethanol was added ethanolic methylamine (33% w/v, 15 ml.). The mixture was allowed to stand overnight and then evaporated to dryness. The residue was crystallized from acetonitrile to give 2-guanidino-4-[5-(2-cyano-3-methylguanidino)pentyl]thiazole, m.p. 109°-113° C.

reactant | 2-guanidino-4-[5-(3-cyano-2-methylisothioureido)pentyl]thiazole | N(C(=N)N)C=1SC=C(N1)CCCCCNC(SC)=NC#N | C12H19N7S2
reactant | methylamine | 15 ml | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 2-guanidino-4-[5-(2-cyano-3-methylguanidino)pentyl]thiazole | N(C(=N)N)C=1SC=C(N1)CCCCCNC(=NC#N)NC | C12H20N8S
